US08664220B2
Step 1: 1-[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-ylmethyl]-3-phenyl-piperidine
Prepared according to the procedure described in Example 1, Step 12, using 5-(4-bromo-phenyl)-3-methyl-isoxazole-4-carbaldehyde and 3-phenyl-piperidine.

reactant | 5-(4-bromo-phenyl)-3-methyl-isoxazole-4-carbaldehyde | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C=O | C11H8BrNO2
reactant | 3-phenyl-piperidine | C1(=CC=CC=C1)C1CNCCC1 | C11H15N
product | 1-[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-ylmethyl]-3-phenyl-piperidine | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)CN1CC(CCC1)C1=CC=CC=C1 | C22H23BrN2O
